US09062070B2
A solution of 5-acetyl-2-fluorobenzonitrile (20.0 g, 0.123 mol) in 500 mL of DCM was heated to reflux for 2 h, and then a solution of bromine in 300 mL DCM was added dropwise into the boiling mixture. The reaction mixture was heated to reflux and stirred under N2 protection overnight. The reaction mixture was washed with water and extracted with DCM. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuum. The residue was purified via silica gel column chromatography to give 5-(bromoacetyl)-2-fluorobenzonitrile.

reactant | 5-acetyl-2-fluorobenzonitrile | 0.123 mol, 20.0 g | C(C)(=O)C=1C=CC(=C(C#N)C1)F | C9H6FNO
reactant | bromine | BrBr | Br2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 5-(bromoacetyl)-2-fluorobenzonitrile | BrCC(=O)C=1C=CC(=C(C#N)C1)F | C9H5BrFNO
